US08729071B2
A solution of benzyl 5-isopropenylpicolinate (1.27 g, 5 mmol) in MeOH (25 mL) was subjected to hydrogenation with 20% Pd(OH)2/C (200 mg) with a H2 balloon for 2 h. The product 5-isopropenylpicolinic acid (780 mg) was obtained by filtration and concentration.

reactant | benzyl 5-isopropenylpicolinate | 5 mmol, 1.27 g | C(=C)(C)C=1C=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C16H15NO2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd(OH)2/C | 200 mg | [OH-].[OH-].[Pd+2]
product | 5-isopropenylpicolinic acid | 780 mg | C(=C)(C)C=1C=CC(=NC1)C(=O)O | C9H9NO2
